US07141586B2
cis-N-{4-[(5-Chloropentanoyl)amino]cyclohexyl}-5-fluoro-2-[3-(methylsulfanyl)phenoxy]nicotinamide
N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (200 mg, 0.486 mmol) was dissolved in dichloromethane (3 ml) and triethylamine (203 μl, 1.46 mmol) was added followed by dropwise addition of 5-chlorovaleryl chloride (69 μl, 0.535 mmol). The reaction was stirred under nitrogen at room temperature for 2 h. The reaction mixture was quenched with sat. sodium hydrogen carbonate solution (5 ml) and extracted with dichloromethane (3×10 ml). The combined organic extracts were dried over MgSO4 and the solvent was removed under reduced pressure to give the title compound (259 mg) as a white solid.

reactant | N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.486 mmol, 200 mg | Cl.N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 1.46 mmol, 203 μl | C(C)N(CC)CC | C6H15N
reactant | 5-chlorovaleryl chloride | 0.535 mmol, 69 μl | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | cis-N-{4-[(5-Chloropentanoyl)amino]cyclohexyl}-5-fluoro-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 259 mg | ClCCCCC(=O)N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O | C24H29ClFN3O3S
